US05721347
A) (1-Benzoyl-2-methyl-5-methoxy-3-indolyl)acetic acid
A solution of 15 g. of methyl-(2-methyl-5-methoxy-3-indolyl) acetate and 0.2 g. of sodium in 60 ml. of benzyl alcohol is slowly fractionated over a period of 41/2 hours through a Vigreux column to remove methanol. The excess benzyl alcohol is then removed by distillation at 60° C. (2.5 mm.) to give a residue of 18.6 g. of benzyl-(2-methyl-5-methoxy-3-indolyl)-acetate.

reactant | methyl-(2-methyl-5-methoxy-3-indolyl) acetate | C(C)(=O)OC1=C(NC2=CC=C(C(=C12)C)OC)C | C13H15NO3
reactant | sodium | [Na] | Na
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | benzyl-(2-methyl-5-methoxy-3-indolyl)-acetate | C(C1=CC=CC=C1)C(C(=O)[O-])C1=C(NC2=CC=C(C=C12)OC)C
product | (1-Benzoyl-2-methyl-5-methoxy-3-indolyl)acetic acid | C(C1=CC=CC=C1)(=O)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)O)C | C19H17NO4
